US04455422
2.5 Grams of 6-{1-oxo-4-[di-(2-chloroethyl)-amino]butyl}-3,4-dihydrocarbostyril was dissolved in 80 ml of methanol, with stirring at a room temperature condition 1.6 g of sodium borohydride was added gradually to the mixture in 15 minutes and further stirred at a room temperature for 2 hours. To the reaction mixture was added 5 ml of concentrated hydrochloric acid was added and the reaction mixture was concentrated under a reduced pressure to dryness. The residue thus obtained was dissolved in 10 ml of water, the pH of the solution was adjusted to 6-7 by adding 2N-sodium hydroxide aqueous solution and stirred to precipitate crystals. The crystals were collected by filtration washed with water and dried to obtain 1.4 g of 6-{1-hydroxy-4-[bis(2-chloroethyl)amino]-butyl}-3,4-dihydrocarbostyril in colorless powdery product.

reactant | 6-{1-oxo-4-[di-(2-chloroethyl)-amino]butyl}-3,4-dihydrocarbostyril | O=C(CCCN(CCCl)CCCl)C=1C=C2CCC(NC2=CC1)=O | C17H22Cl2N2O2
reactant | sodium borohydride | 1.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 6-{1-hydroxy-4-[bis(2-chloroethyl)amino]-butyl}-3,4-dihydrocarbostyril | 1.4 g | OC(CCCN(CCCl)CCCl)C=1C=C2CCC(NC2=CC1)=O | C17H24Cl2N2O2
